US04230715
63.6 g (0.6 mole) of thiocarbohydrazide and 100.0 g (0.85 mole) of 3-ethoxypropionic acid are stirred and heated at reflux until solution is achieved. The resultant solution is cooled to room temperature, diluted with 700 ml of diethyl ether and refrigerated for 1 hour. The crude white solid (94.6 g) when filtered and recrystallized from 1200 ml of water, gives 54.6 g of lustrous white plates of 4-amino-5-(2-ethoxyethyl)-4H-1,2,4-triazole-3-thiol. m.p. 123°-124° C.

reactant | thiocarbohydrazide | 0.6 mole, 63.6 g | NNC(=S)NN | CH6N4S
reactant | 3-ethoxypropionic acid | 0.85 mole, 100.0 g | C(C)OCCC(=O)O | C5H10O3
solvent | diethyl ether | 700 ml | C(C)OCC | C4H10O
product | 4-amino-5-(2-ethoxyethyl)-4H-1,2,4-triazole-3-thiol | NN1C(=NN=C1CCOCC)S | C6H12N4OS
